* source PROJECT4
V_V1         VCC 0 12Vdc
R_R1         N00167 VCC  2k TC=0,0 
R_R2         0 N00167  10k TC=0,0 
C_C1         0 N00167  1u  TC=0,0 
C_C2         0 N00415  1n  TC=0,0 
V_V2         N08043 0 11Vdc
R_R3         N01127 VCC  1500k TC=0,0 
R_R4         N09487 VCC  1k TC=0,0 
M_M1         N09487 0 N01127 N01127 IRF123
X_U3         N01815 N01771 VCC 0 N01750 OPA2156
V_V3         N01815 0 4.5Vdc
X_Q7         N00415 N26891 N01754 BFG135/PLP 
X_Q8         N03553 N27016 N01754 BFG135/PLP 
X_Q10         N01754 N01750 N01771 BFG135/PLP 
R_R6         N03553 VCC  150 TC=0,0 
X_U5         N08043 N01127 VCC 0 N01016 OPA2156
X_Q11         N00415 N01016 N01127 BFT93/INF
X_D4         N00415 N00167 BAT54/PLP
D_D6         0 N00167 BZX84C9V1/PLP 
V_V4         N26891 0  
+PULSE 5.02V 5.499V 2.45u 200p 200p 0.05u 4u
V_V5         N27016 0  
+PULSE 5.02V 5.499V 0 400p 400p 2.45u 2.5u
R_R7         0 N01771  90 TC=0,0 
X_U6         N00415 N32736 VCC 0 N32736 OPA659
